US07897595B2
To a solution of CuCl2 (87 mg, 0.65 mmol) and nBuNO2 (950 μl, 0.81 mmol) in MeCN (18 ml) was added a solution of 4-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (182 mg, 0.54 mmol) in MeCN (9 ml) at room temperature. After heating the mixture at 50° C. for 4 h, it was quenched with sat. aq. NaHCO3 and extracted with EtOAc The organic layer was dried over Na2SO4, concentrated in vacuo and purified by column chromatography to provide 62 mg (32%) of 3,4-dichloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 4.30 (0.5H), 4.00 (0.5H), 3.92 (3H), 3.83 (1H), 3.74 (1H), 3.38 (1H), 3.25 (2H), 3.10 (1H), 1.16 (3H) ppm. A mixture of 3,4-dichloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (61 mg, 0.17 mmol), K2CO3 (70 mg, 0.51 mmol), MeOH (2.4 ml) and H2O (0.5 ml) was heated at 55-60° C. for 30 minutes. After removal of solvent under reduced pressure, the mixture was taken into aq. NaHCO3 and extracted with DCM. The organic layer was dried and concentrated in vacuo to give 40 mg (90%) of 3,4-dichloro-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 3.91 (s, 3H), 3.55 (m, 1H), 3.20 (m, 2H), 3.10 (dd, 1H), 2.93 (m, 2H), 2.71 (dd, 1H), 1.25 (d, 3H) ppm.

reactant | 3,4-dichloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 0.17 mmol, 61 mg | ClC1=C(C2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC)Cl | C13H13Cl2F3N2O2
reactant | K2CO3 | 0.51 mmol, 70 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | 2.4 ml | CO | CH4O
solvent | H2O | 0.5 ml | O | H2O
product | 3,4-dichloro-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 40 mg, 90% | ClC1=C(C2=C(CCNCC2C)N=C1OC)Cl | C11H14Cl2N2O
